2115-01-20 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2115-1-19**] 10:00 PM
 NASAL SWAB - At [**2115-1-19**] 10:00 PM
 URINE CULTURE - At [**2115-1-19**] 11:00 PM
 BLOOD CULTURED - At [**2115-1-20**] 12:21 AM
 FEVER - 103.2
F - [**2115-1-19**] 11:00 PM
   - fever 103.2 at 11pm, slightly tachy (HR 100-110s). Blood cultures X2
   and urine sent. Tylenol/ice packs given. Also received IVF NS @125
   cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-1-20**] 12:03 AM
   Metronidazole - [**2115-1-20**] 03:45 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2115-1-19**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-1-20**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.2
C (99
   HR: 101 (87 - 109) bpm
   BP: 118/60(73) {91/43(55) - 142/70(85)} mmHg
   RR: 25 (21 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    351 mL
                                                                  1,296 mL
   PO:
                                                                    300 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     51 mL
                                                                  1,146 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    360 mL
   Urine:
                                                                    300 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                    936 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   125 K/uL
   8.4 g/dL
   119 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   107 mEq/L
   137 mEq/L
   25.0 %
   14.7 K/uL
        [image002.jpg]
   Blood cultures X2 NGTD
   Urine culture X1 NGTD
   B12/folate/TSH WNL
   Retic 0.2, Iron 19, TIBC 242, Ferritin 237, Transferrin 186, MCV 76,
   RDW 15.9, Iron/TIBC ratio 7%
                             [**2115-1-19**]  08:43 PM
                             [**2115-1-20**]  05:21 AM
   WBC
   13.5
   14.7
   Hct
   27.4
   25.0
   Plt
   125
   Cr
   0.8
   0.7
   Glucose
   138
   119
   Other labs: PT / PTT / INR:14.6/75.9/1.3, ALT / AST:102/143, Alk Phos /
   T Bili:253/7.3, Amylase / Lipase:/49, Differential-Neuts:86.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.3 g/dL, LDH:436 IU/L, Ca++:6.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   66 M with dyslipidemia/GERD found to have portal vein thrombosis and
   gram negative bacteremia
   # Portal vein thrombosis- DDx regarding etiology is broad at this point
   and includes undiagnosed liver disease, malignancy, collagen vascular
   disease, hypercoagulable disorder, IBD, sepsis.
   - Consulted liver team i.e. thrombectomy, discussed with liver fellow
   overnight and patient seen this morning
 will follow-up on their
   recommendations
   - Discuss with liver regarding MRCP and/or EGD/Colonoscopy to evaluate
   for portal HTN
   - Follow-up abdominal ultrasound to be done this morning to more fully
   assess liver/gallbladder/ascites/flow
   - Continue heparin gtt
   - Trend daily CBC, LFT's, coagulation profile
   - Follow-up hepatitis serologies and hypercoagulable workup sent off at
   [**Hospital6 **]
   .
   # Gram negative bacteremia- source likely GI and possibly, colorectal
   malignancy
   - continue ABX with Zosyn and Flagyl (~Day 2)
   - Follow-up blood cx and urinalysis with cx
   - [**Hospital **] [**Hospital 321**] Hospital speciation and sensitivities
   .
   # Anemia: Picture unclear given low iron, retic and MCV but normal
   ferritin (?acute phase reactant) and low TIBC. Possible multi-factorial
   picture given slightly high RDW (15.9). Patient possibly has iron
   deficiency anemia and anemia of chronic disease +/- liver disease. Iron
   deficiency anemia in a 65 yo male would put colorectal malignancy
   higher on the differential for patient
s portal vein thrombosis and
   gram negative bacteremia
   - Monitor for now
   .
   # GERD- hold PPI for now
   .
   # Dyslipidemia- hold Atorvastatin and Zetia for now
   .
   # FEN: Regular, replete electrolytes, nutrition consult
   # Prophylaxis: heparin gtt
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU for now but may transfer to floor today
 PORTAL VEIN THROMBOSIS
 BACTEREMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-1-19**] 08:30 PM
   20 Gauge - [**2115-1-20**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-01-20 08:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever, abdominal pain
   CT showed portal vein thrombosis
 heparin and abx
   Positive BCx
   24 Hour Events:
 BLOOD CULTURED - At [**2115-1-19**] 10:00 PM
 NASAL SWAB - At [**2115-1-19**] 10:00 PM
 URINE CULTURE - At [**2115-1-19**] 11:00 PM
 BLOOD CULTURED - At [**2115-1-20**] 12:21 AM
 FEVER - 103.2
F - [**2115-1-19**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-1-20**] 12:03 AM
   Metronidazole - [**2115-1-20**] 03:45 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2115-1-19**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-1-20**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.3
C (99.2
   HR: 100 (87 - 109) bpm
   BP: 111/65(75) {91/43(55) - 142/70(85)} mmHg
   RR: 27 (21 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    351 mL
                                                                  1,907 mL
   PO:
                                                                    300 mL
                                                                    550 mL
   TF:
   IVF:
                                                                     51 mL
                                                                  1,357 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    560 mL
   Urine:
                                                                    300 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                  1,347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Awake, comfortable, jaundiced
   Heent unremarkable
   Neck supple
   Hrt rrr
   Lungs clear
   Abd mild right sided tenderness
   Extreme no edema
   Labs / Radiology
   8.4 g/dL
   149 K/uL
   119 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   107 mEq/L
   137 mEq/L
   25.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2115-1-19**]  08:43 PM
                             [**2115-1-20**]  05:21 AM
   WBC
   13.5
   14.7
   Hct
   27.4
   25.0
   Plt
   125
   149
   Cr
   0.8
   0.7
   Glucose
   138
   119
   Other labs: PT / PTT / INR:14.6/75.9/1.3, ALT / AST:102/143, Alk Phos /
   T Bili:253/7.3, Amylase / Lipase:/49, Differential-Neuts:86.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.3 g/dL, LDH:436 IU/L, Ca++:6.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.3
   mg/dL
   CXR vascular congestion
   Assessment and Plan
 PORTAL VEIN THROMBOSIS
 cont. heparin, cause unclear at this time,
   having repeat RUQ u/s today, will discuss with Liver
 BACTEREMIA
 mechanism unclear, on antibiotics, surveillance blood
   cultures pending, need to review outside CT
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-1-19**] 08:30 PM
   20 Gauge - [**2115-1-20**] 12:19 AM
   Prophylaxis:
   DVT:  on IV heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition :   transfer

2115-01-21 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   FEVER - 101.1
F - [**2115-1-21**] 12:00 AM
   - Pan cultured, U/A
   - +Blood cx GNRs [**1-19**]
   - Had CXR c/w some fluid o/l in setting of SOB, rec
d Lasix 20 mg IV x
   1 with +/- effect, SOB resolved
   - Requiring [**2-14**] lpm NC or desats to mid-80s while asleep (new), sats
   improve when wakes
   - Heparin drip at 0600 held for planned IR procedure that fell thru,
   now back on
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-1-20**] 05:49 PM
   Metronidazole - [**2115-1-21**] 02:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-1-20**] 01:32 PM
   Heparin Sodium - [**2115-1-21**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-1-21**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.8
C (98.2
   HR: 86 (79 - 103) bpm
   BP: 101/59(69) {94/49(61) - 123/79(88)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,939 mL
                                                                    385 mL
   PO:
                                                                  1,070 mL
             TF:
   IVF:
                                                                  2,869 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    840 mL
   Urine:
                                                                  2,210 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: Jaundiced, icteric sclera
   Lungs: CTA w/ wheeze occasional on L
   CV: S1 S2
   Ab: mildly ttp RUQ, soft ND
   Labs / Radiology
   182 K/uL
   8.7 g/dL
   128 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   12 mg/dL
   104 mEq/L
   134 mEq/L
   25.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2115-1-19**]  08:43 PM
                             [**2115-1-20**]  05:21 AM
                             [**2115-1-20**]  07:56 PM
                             [**2115-1-21**]  01:58 AM
   WBC
   13.5
   14.7
   11.5
   Hct
   27.4
   25.0
   25.8
   25.4
   Plt
   125
   149
   182
   Cr
   0.8
   0.7
   0.7
   Glucose
   138
   119
   128
   Other labs: PT / PTT / INR:14.6/58.7/1.3, ALT / AST:141/237, Alk Phos /
   T Bili:292/8.4, Amylase / Lipase:/49, Differential-Neuts:86.0 %,
   Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.3 g/dL, LDH:245 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   66 M with dyslipidemia/GERD found to have portal vein thrombosis and
   gram negative bacteremia
    # Portal vein thrombosis- DDx regarding etiology is broad and includes
   undiagnosed liver disease, malignancy, sepsis. Plan for IR portal
   venography w/ lysis is on hold. Ideal diagnosis would tie together
   thrombus, bacteremia and elevated bili and LFTs.
   - Early communication this AM with liver team
   - Likely CT torso today to evaluate both ab/pelvis for clot and
   etiologies behind, and to r/o PE (see below)
   - MRCP and colonoscopy also possible options
   - Continue heparin gtt
   - F/u hepatitis serologies and hypercoagulable workup sent off at
   [**Hospital6 **]
   - F/u cx sensies from [**Hospital1 321**] Gen
   - F/u colono records from 5 years ago at [**Hospital1 321**] Gen
   .
   # Gram negative bacteremia- Continues to be febrile and to produce
   +blood cxs despite abx. It is likely that either the portal vein clot
   is seeded and septic now, or that he has another source such as a liver
   abscess that is seeding the blood. Source likely GI and possibly,
   colorectal malignancy.
   - continue Zosyn and Flagyl (Day 3)
   - Follow-up blood cx and urinalysis with cx
   - [**Hospital **] [**Hospital 321**] Hospital speciation and sensitivities
   - Needs prostate exam for prostatitis
   # Dyspnea: Pt has new O2 requirement of [**2-14**] lpm NC o/n, feels
   subjectively short of breath. DDx includes PE (given known clot), heart
   failure, sepsis/infectious. If PE is dx he is already on Heparin gtt.
   -          BNP
   -          ABG to assess for A-a gradient (for PE)
   -          Echo
   -          Likely CT torso today to evaluate both ab/pelvis for clot
   and etiologies behind, and to r/o PE
   -          Monitor closely
   # Anemia: Looks like iron-deficiency anemia (low iron, low retics, low
   MCV). Likely a colorectal malignancy will tie together various issues,
   including this anemia.
   - T&S
   - PM Hct
   - stool guiac
   # Elevated liver enzymes: AST, ALT, Alk Phos and direct bili all
   elevated. But per U/S no gall bladder path. Echogenic liver. Likely a
   primary liver issue, such as fatty liver, cirrhosis, etc
   -          D/w GI liver early
   -          CT of abdomen/torso
   # GERD- hold PPI for now
   .
   # Dyslipidemia- hold Atorvastatin and Zetia given LFTs
   # FEN: Regular, replete electrolytes, nutrition consult
   # Prophylaxis: heparin gtt
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-1-19**] 08:30 PM
   20 Gauge - [**2115-1-20**] 12:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-01-22 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2115-1-21**] 09:30 AM
 ULTRASOUND - At [**2115-1-21**] 02:17 PM
   cardiac echo
   -OSH cx with Proteus, pan sensitive except resistant to tetracycline
   -OSH Hep B SAg negative, other labs will be done by 3pm [**1-22**]
   -MRCP: Nearly occlusive left PV thrombus and partially
   occlusive right PV thrombus, with minimal extension into
   distal main PV. Likely acute to subacute with no collateralization.
   Normal appearance of the biliary system. Mild diffuse fatty
   infiltration of the liver. Bilateral pleural effusions L >R. Trace
   ascites.
   -Liver recs- hepatology labs (A1-antitrypsin, ceruloplasmin, AMA, [**Doctor First Name **],
   IgG, IgM sent), CT torso tonight, ERCP tomorrow, add vanco if
   decompensates
   -Echo- mild MR
   [**Name13 (STitle) **]NaHCO3 given peri-CT for renal protection
   -Diuresis ~ negative 1 liter at 2100
   -CT abd showed hypodensity in prostate
   -DRE: Guaiac negative stool
   -Heparin d/c'd at 6 am for ERCP today
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2115-1-22**] 03:13 AM
   Metronidazole - [**2115-1-22**] 06:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2115-1-21**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Integumentary (skin): Jaundice
   Flowsheet Data as of  [**2115-1-22**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 67 (67 - 92) bpm
   BP: 104/65(73) {104/61(67) - 140/98(109)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,986 mL
                                                                  1,031 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,506 mL
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                  3,415 mL
                                                                  1,650 mL
   Urine:
                                                                  3,015 mL
                                                                  1,650 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,429 mL
                                                                   -619 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Guaiac negative stool. Smooth prostate
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   285 K/uL
   8.9 g/dL
   114 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   102 mEq/L
   135 mEq/L
   27.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2115-1-19**]  08:43 PM
                             [**2115-1-20**]  05:21 AM
                             [**2115-1-20**]  07:56 PM
                             [**2115-1-21**]  01:58 AM
                             [**2115-1-21**]  02:22 PM
                             [**2115-1-22**]  02:46 AM
   WBC
   13.5
   14.7
   11.5
   12.2
   Hct
   27.4
   25.0
   25.8
   25.4
   27.0
   Plt
   125
   149
   182
   285
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   Glucose
   138
   119
   128
   90
   114
   Other labs: PT / PTT / INR:14.9/75.9/1.3, CK / CKMB / Troponin-T:60//,
   ALT / AST:142/184, Alk Phos / T Bili:312/7.0, Amylase / Lipase:/49,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:8.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:5184 ng/mL, Fibrinogen:542 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:201 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.3
   mg/dL
   Imaging: [**1-21**] MRCP: 1. Nearly occlusive thrombus within the left portal
   vein, and partially occlusive thrombus within the right portal vein
   with minimal extension into the distal main portal vein. The MR [**First Name (Titles) **]
[**Last Name (Titles) 13152**]ics of this thrombus suggest that it is acute to subacute
   in age, and no collateralization has formed. Mild perfusional
   abnormality is noted in segment VI and VII of the liver secondary to
   the presence of the portal venous thrombosis.
   2. Normal appearance of the biliary system.
   3. Mild diffuse fatty infiltration of the liver.
   4. Bilateral pleural effusions, left greater than right, and trace
   ascites.
   [**1-21**] CT: [**Doctor Last Name **] to MR - b/l effusions, PV thombus, hepatic & renal cysts,
   coronary artery calcs
   Mildly enlarged prostate
   Gastic wall apparent thickening likely [**1-15**] underdistension
   Microbiology: [**1-19**] BCx: [**2115-1-19**] 11:00 pm BLOOD CULTURE
         GRAM NEGATIVE ROD(S __________________________
                                GRAM NEGATIVE ROD(S)
                                |
   AMIKACIN--------------       S
   AMPICILLIN------------       R
   AMPICILLIN/SULBACTAM--       S
   CEFEPIME--------------       S
   CEFTAZIDIME-----------       S
   CEFTRIAXONE-----------       S
   CIPROFLOXACIN---------       S
   GENTAMICIN------------       S
   MEROPENEM-------------       S
   PIPERACILLIN/TAZO-----       S
   TOBRAMYCIN------------       S
   Assessment and Plan
   66 M with dyslipidemia/GERD found to have portal vein thrombosis and
   gram negative bacteremia
    # Portal vein thrombosis-Still no clear etiology, as imaging (MRCP/CT)
   unrevealing for hepatobiliary abnormalities other than fatty
   infiltration. No known risk factors for hypercoagulable
   state
malignancy is on the differential, but patient has a normal
   PSA/DRE and reportedly had a normal colonoscopy in recent years. IR not
   planning to perform lysis.
   - Appreciate hepatology recs
   - Awaiting autoimmune/infectious serologies
   - ERCP today to further evaluate for hepatobiliary injury that could
   have led to PV thrombus
   - Continue heparin gtt after ERCP
   - F/u cx sensies from [**Hospital1 321**] Gen
   - F/u colono records from 5 years ago at [**Hospital1 321**] Gen
   .
   # Gram negative bacteremia- Afebrile with normal WBC count. On Day 4
   zosyn/flagyl. Cultures at OSH positive for proteus. Sensitivies on
   unknown organism on [**Hospital1 19**] BCx reveal pan-sensitive bug. No hepatic
   abscess on imaging. Given Bacteremia and thrombus, there may
   potentially be bacterial seeding of clot. No prostatitis on labs/exam.
   No other hx of GI bleed (guaiac negative today).
   - continue Zosyn and Flagyl per liver recs. Consider peeling back as
   culture data returns
   - Follow-up blood cx and urinalysis with cx
   - [**Hospital **] [**Hospital 321**] Hospital speciation and sensitivities
   # Dyspnea:Transient new O2 requirement, now resolved. Patient walking
   around floor comfortably.
   # Anemia: Looks like iron-deficiency anemia (low iron, low retics, low
   MCV), although guaiac negative. Without documentation of past
   endoscopy, still need to consider colorectal CA as possibility.
   - T&S
   - daily CBC
   # Elevated liver enzymes: AST, ALT, Alk Phos and direct bili all
   elevated, in setting of PV thrombosis. But per U/S no gall bladder
   path. Echogenic liver. Likely a primary liver issue, such as fatty
   liver, cirrhosis, etc
   # GERD- hold PPI for now
   .
   # Dyslipidemia- hold Atorvastatin and Zetia given LFTs
   # FEN: Regular, replete electrolytes, nutrition consult
   # Prophylaxis: heparin gtt
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ERCP today, may transfer to floor after procedure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-1-21**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan.  66M gerd and HLD
   presents w/ bacteremia, hepatic inflammation, PVT and anemia. Had CT
   abd and MRCP yesterday.  Results reviewed as above.  OSH bl cx with
   proteus, pan [**Doctor Last Name **].  TTE with mild MR, nl ventricular fx, no
   vegetations.  NPO for ercp today.
   98.2    67   124/60   NC 95%
   Alert and approp, jaundiced
   scant bb rales
   RR w/o m
   Abd distended, obese, + BS, soft
   Labs notable for WBC 12.2K, HCT 27, bili 7 Cr 0.6, inr 1.3
   CXR without focal process
   Unclear etiology of this presentation.  DDX includes with neoplastic,
   infectious, toxic, we have a high suspicion for underlying malignancy
   as unifying process.  Work up unrevealiing to date. Will contact PCP
   for baseline labs and prior work-up (? prior colonscopy results).   For
   ERCP today .  Heptology input appreciated.  In terms of bacteremia
   source remains unclear, continue day 4 zosyn/flagyl (bl GNR
   here, speciation pending, proteus from OSH), tapering antbx per cx
   data. He remain AF with stable wbc.  Will send surveillance cxs.
   Hypoxemia has resolved, w/o infiltrate on CXR, and now stable on RA.  ?
   component of nocturnal desat/? OSA.  Continuing heparin gtt for PVT, on
   hold for ercp. Remainder of plan as outlined in resident note. Stable
   for floor transfer.  WIll go east with plan for ERCP later today.
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2115-1-22**] 14:40 ------